US05359068
5-Chloro-4 -(2-[4-(t-butoxycarbonyl)-1-piperazinyl]ethyl)-2-(bis-(methoxycarbonyl)methyl)-nitrobenzene
2,5-Dichloro-4-(2-[4-(t-butoxycarbonyl)-1-piperazinyl]ethyl)-nitrobenzene (5 g, 13 mmol) and dimethyl malonate (3.8 ml, 33 mmol) were stirred in N-methyl pyrrolidone (75 ml), at room temperature under nitrogen, while sodium hydride (1.33 g, 33 mmol, 60% in oil) was added. The reaction mixture was heated to 57° C. for 7 hours. The reaction mixture was cooled and poured into saturated aqueous ammonium chloride solution and extracted twice with ethyl acetate. The combined organic layers were washed with water three times, one time with brine and dried over magnesium sulfate. Evaporation of the solvent in vacuo gave an oil which was chromatographed over flash silica gel with ethyl acetate/hexanes followed by ethyl acetate. The fractions containing the desired product were combined and evaporated to give an oil, 2.5 g, 48% yield. NMR (CDCl3) δ 8.09 (s, 1), 7.45 (s, 1), 5.31 (s, 1), 3.79 (s, 6), 3.43 (m, 4), 2.98 (t, 2), 2.61 (t, 2), 2.47 (m, 4), 1.43 (s, 9).

reactant | 2,5-Dichloro-4-(2-[4-(t-butoxycarbonyl)-1-piperazinyl]ethyl)-nitrobenzene | 13 mmol, 5 g | ClC1=C(C=C(C(=C1)CCN1CCN(CC1)C(=O)OC(C)(C)C)Cl)[N+](=O)[O-] | C17H23Cl2N3O4
reactant | dimethyl malonate | 33 mmol, 3.8 ml | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | sodium hydride | 33 mmol, 1.33 g | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N-methyl pyrrolidone | 75 ml | CN1C(CCC1)=O | C5H9NO
product | 5-Chloro-4 -(2-[4-(t-butoxycarbonyl)-1-piperazinyl]ethyl)-2-(bis-(methoxycarbonyl)methyl)-nitrobenzene | 48% yield | ClC=1C(=CC(=C(C1)[N+](=O)[O-])C(C(=O)OC)C(=O)OC)CCN1CCN(CC1)C(=O)OC(C)(C)C | C22H30ClN3O8
